US06677335B1
2-Methoxy-1-methylethyl methanesulphonate
Methanesulphonyl chloride (2.86 ml, 36.9 mmol) was added dropwise to an ice-cooled solution of 1-methoxy-2-propanol (3 ml, 30.7 mmol) and triethylamine (10.27 ml, 73.7 mmol) in dichloromethane (150 ml), and the reaction stirred at room temperature for 18 hours. The mixture was washed with water, then 2M hydrochloric acid, dried (MgSO4) and evaporated under reduced pressure to give the title compound as a yellow oil, 5.24 g.

reactant | Methanesulphonyl chloride | 36.9 mmol, 2.86 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-methoxy-2-propanol | 30.7 mmol, 3 ml | COCC(C)O | C4H10O2
reactant | triethylamine | 73.7 mmol, 10.27 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-Methoxy-1-methylethyl methanesulphonate | CS(=O)(=O)OC(COC)C | C5H12O4S
